US09169261B2
To a solution of 2-phenyl-2H-tetrazole-5-carboxylic acid (0.10 g, 0.53 mmol, 1 eq) and (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine (0.15 g, 0.53 mmol, 1 eq) in 1 mL of DMSO was added triethylamine (0.22 mL, 0.58 mmol, 1.1 eq) and HATU (0.22 g, 0.58 mmol, 3 eq). The mixture was stirred at room temperature for 1 h and was then concentrated and purified by HPLC to afford (S)—N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-2-phenyl-2H-tetrazole-5-carboxamide (0.10 g, 0.26 mmol, 49%). 1H NMR (400 MHz, CD3OD) δ 8.19 (d, J=7.0 Hz, 2 H), 8.06 (s, 1 H), 7.95 (d, J=5.5 Hz, 1H), 7.82 (s, 1H), 7.70-7.58 (m, 3 H), 7.19 (d, J=5.8 Hz, 1 H), 5.00-4.90 (m, 1H), 4.80-3.80 (br, 4 H), 2.62-2.38 (m, 2 H); MS: (ES) m/z calculated for C18H17N9O [M+H]+ 376.2, found 376.

reactant | 2-phenyl-2H-tetrazole-5-carboxylic acid | 0.53 mmol, 0.10 g, 1 eq | C1(=CC=CC=C1)N1N=C(N=N1)C(=O)O | C8H6N4O2
reactant | (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine | 0.53 mmol, 0.15 g, 1 eq | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)N | C10H13N5
reactant | triethylamine | 0.58 mmol, 0.22 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.58 mmol, 0.22 g, 3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)—N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-2-phenyl-2H-tetrazole-5-carboxamide | 0.26 mmol, 0.10 g, 49% | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)NC(=O)C=2N=NN(N2)C2=CC=CC=C2 | C18H17N9O
